US04272525
A. N,N'-Bis-Trichloroethoxycarbonyl-L-Lysyloxy Succinimide
In a manner similar to Example 2A, utilizing anhydrous ethyl acetate as the solvent, N,N'-bis-trichloroethoxycarbonyl-L-lysine is reacted with N-hydroxy succinimide to obtain the above named compound; [α]D26 -19.6° (EtOH); νmax (KBr) 1820, 1785, 1715 cm-1.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N'-bis-trichloroethoxycarbonyl-L-lysine | ClC(COC(=O)N[C@@H](CCCCNC(=O)OCC(Cl)(Cl)Cl)C(=O)O)(Cl)Cl | C12H16Cl6N2O6
reactant | N-hydroxy succinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | KBr | [K+].[Br-]
solvent | EtOH | CCO | C2H6O
product | N,N'-Bis-Trichloroethoxycarbonyl-L-Lysyloxy Succinimide | ClC(COC(=O)N[C@@H](CCCCNC(=O)OCC(Cl)(Cl)Cl)C(=O)OC1C(=O)NC(C1)=O)(Cl)Cl | C16H19Cl6N3O8
